US07982036B2
To a stirred solution of 4,6-dichloropyrimidine (0.5 g, 3.7 mmol) in n-butanol (10 mL) was added methyl 3-aminobenzoate (0.498 g, 3.7 mmol) and DIPEA (0.65 g, 5.0 mmol) and the reaction mixture was heated at 110° C. for 12 h. It was cooled and excess n-butanol was removed under reduced pressure. The residue was extracted with EtOAc (2×30 mL) and the combined EtOAc extract was washed with water (5 mL), brine (2.5 mL), dried over Na2SO4 and concentrated under reduced pressure. The residue was stirred with pet ether (30 mL) for 30 min, the pet ether removed by decantation and the solid obtained was dried under high vacuum to give methyl 3-(6-chloropyrimidin-4-ylamino)benzoate (0.3 g, 34%) as light brown solid.

reactant | 4,6-dichloropyrimidine | 3.7 mmol, 0.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | methyl 3-aminobenzoate | 3.7 mmol, 0.498 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | DIPEA | 5.0 mmol, 0.65 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | methyl 3-(6-chloropyrimidin-4-ylamino)benzoate | 0.3 g, 34% | ClC1=CC(=NC=N1)NC=1C=C(C(=O)OC)C=CC1 | C12H10ClN3O2
